### PR TITLE
Quasicoherence

### LINKED ISSUE #187: Quasicoherence

### PR DESCRIPTION
**Pull request by markrd-williams**
Build up Lattice theory enough to do quasicoherence and show .

- [x] Reorganise algebras to be primarily bundled.
- [x] Give the universal property of a quotient algebras.
- [x] Define quasicoherent algebras.
- [x] Prove basic facts about quasicoherence.

### CODE REVIEW

File: src/Synthetic/Quasicoherence.lagda.tree [hunk 1]
```diff
@@ -0,0 +1,93 @@
+\date{2026-03-12}
+\title{Quasicoherent Aypes}
```
Comment (fredrik-bakke) [inline src/Synthetic/Quasicoherence.lagda.tree]: Is this supposed to read "Quasicoherent Algebras" or "Quasicoherent Types"?

File: src/Algebra/Lattice/Instances/Pointwise.lagda.tree [hunk 2]
```diff
@@ -60,5 +60,55 @@ module _ {𝓤 𝓘}  (I : Type 𝓘) {A : I → Type 𝓤} (L : (i : I) → Lat
   Pointwise-Lattice-is-distributive distr .is-distributive.distrib-∨-∧
     = funext→ λ i → distr i .distrib-∨-∧
     where open is-distributive
+
+module _ {𝓤 𝓥 𝓘}
+         (I : Type 𝓘) {X : I → Type 𝓤}
+         {B : Type 𝓥} {LB : Lattice B}
+         (A : (i : I) → Algebra LB (X i)) where
```
Comment (samtoth) [inline src/Algebra/Lattice/Instances/Pointwise.lagda.tree]:
```suggestion
module _ 
  {𝓤 𝓥 𝓘}
  (I : Type 𝓘) {X : I → Type 𝓤}
  {B : Type 𝓥} {LB : Lattice B}
  (A : (i : I) → Algebra LB (X i)) 
  where
```

File: src/Algebra/Lattice/Instances/Pointwise.lagda.tree [hunk 3]
```diff
@@ -60,5 +60,55 @@ module _ {𝓤 𝓘}  (I : Type 𝓘) {A : I → Type 𝓤} (L : (i : I) → Lat
...
+    open Algebra
+    open is-lattice-hom
+
+    pointwise-algebra-map : B → (i : I) → X i
+    pointwise-algebra-map b i =  ι (A i) b
+
+    pointwise-algebra-is-lattice-algebra :
+      is-lattice-algebra LB
+                         (Pointwise-Lattice I (str-Lattice ∘ A))
+                         pointwise-algebra-map
```
Comment (samtoth) [inline src/Algebra/Lattice/Instances/Pointwise.lagda.tree]:
```suggestion
    pointwise-algebra-is-lattice-algebra 
      : is-lattice-algebra LB
          (Pointwise-Lattice I (str-Lattice ∘ A))
          pointwise-algebra-map
```

File: src/Algebra/Lattice/Instances/Pointwise.lagda.tree [hunk 4]
```diff
@@ -60,5 +60,55 @@ module _ {𝓤 𝓘}  (I : Type 𝓘) {A : I → Type 𝓤} (L : (i : I) → Lat
...
+      : ((i : I) → is-distributive-algebra (A i))
+      → is-distributive-algebra Pointwise-Algebra
+    Pointwise-Algebra-is-distributive =
+      Pointwise-Lattice-is-distributive I (λ i → str-Lattice (A i))
+
+
+module _ {𝓤 𝓥 𝓘}
+         (I : Type 𝓘) {X : I → Type 𝓤}
+         {B : Type 𝓥} {LB : Lattice B}
+         (A : (i : I) → Dist-Algebra LB (X i)) where
```
Comment (samtoth) [inline src/Algebra/Lattice/Instances/Pointwise.lagda.tree]:
```suggestion
module _ 
  {𝓤 𝓥 𝓘}
  (I : Type 𝓘) {X : I → Type 𝓤}
  {B : Type 𝓥} {LB : Lattice B}
  (A : (i : I) → Dist-Algebra LB (X i)) 
  where
```

**Review by samtoth — COMMENTED** [review]
Will give a more detailed review later but for now would like to mention a few layout things. (For which I apologise,  I think we have changed some conventions somewhat recently that haven't yet been documented)

Modules:
 - Use of anonymous modules is very much encouraged (as you have mostly done)
 - The module arguments if they extend beyond one line should be placed with 2 spaces indentation from the start of the module keyword. The `where` should be similarly aligned. I have added some examples in the code review.
 - One can open a module in a module argment like so: `(x : Blah) (let open Blah X) (other : Stuff) (let module B = Stuff other)` - this can be handy in a few places and is encouraged

Type signatures
 - If they extend beyond a single line, the colon should go on the new line indented

File: src/Algebra/Lattice/Instances/Pointwise.lagda.tree (hunk 2 above)
Comment (markrd-williams) [reply src/Algebra/Lattice/Instances/Pointwise.lagda.tree]: Ok will do! Can I ask - is the intention that code in the module after the `where` is indented 4 spaces? or in line with `where`?

Comment (samtoth) [reply src/Algebra/Lattice/Instances/Pointwise.lagda.tree]: It is inline with the where - and with a line of whitespace after the where

File: src/Algebra/Lattice.lagda.tree [hunk 5]
```diff
@@ -256,15 +272,221 @@ is-lattice-algebra
...
+  private
+    module A1 = Algebra A1
+    module A2 = Algebra A2
+    module f = is-lattice-hom (un-is-lattice-alg-hom (f .snd))
+    open Algebra A1 using (Carrier-is-truncated)
+    open Algebra A2 using (Carrier-is-truncated)
+    open is-equiv fE
+
+    fwd = f .fst .fst
+    H = f .fst .snd
```
Comment (fredrik-bakke) [inline src/Algebra/Lattice.lagda.tree]: could you move these declarations into the module declaration please? I find `private` declarations get messy and hard to track quickly. Localising them to the `module` declaration keeps everything in one place.

File: src/Algebra/Lattice.lagda.tree [hunk 6]
```diff
@@ -256,15 +272,221 @@ is-lattice-algebra
...
+                       bwd (fwd (bwd x) A2.∨ fwd (bwd y)) ＝⟨ ap bwd (sym f.pres-∨) ⟩
+                       bwd (fwd (bwd x A1.∨ bwd y)) ＝⟨ η _ ⟩
+                       bwd x A1.∨ bwd y ∎
+              ; pres-∧ = λ {x y} →
+                       bwd (x A2.∧ y) ＝⟨  ap bwd (ap₂ A2._∧_ (ε⁻¹ x) (ε⁻¹ y) )  ⟩
+                       bwd (fwd (bwd x) A2.∧ fwd (bwd y)) ＝⟨ ap bwd (sym f.pres-∧) ⟩
+                       bwd (fwd (bwd x A1.∧ bwd y)) ＝⟨ η _ ⟩
+                       bwd x A1.∧ bwd y ∎
+              ; pres-0 = ap bwd (sym f.pres-0) ∙ η A1.0l
+              ; pres-1 = ap bwd (sym f.pres-1) ∙ η A1.1l })
```
Comment (fredrik-bakke) [inline src/Algebra/Lattice.lagda.tree]: Please define this using pattern matching instead. Alternatively, you can use a pattern matching lambda (`λ where → ...`)

File: src/Synthetic/Quasicoherence.lagda.tree [hunk 7]
```diff
@@ -0,0 +1,226 @@
...
+
+\subtree[wil-0000]{
+\taxon{Definition}
+\title{Quasicoherent Algebras}
+
+\p{
+A remarkable property of the distributive lattice in simplicial type theory
+is that it satisfies a strong algebraic duality principle, known as
+\strong{Blechschmidt duality}. This tells us that all functions between types
+that are algebraic subsets of #{\mathbb{I}^n} are actually given by polynomials.
```
Comment (fredrik-bakke) [inline src/Synthetic/Quasicoherence.lagda.tree]:
```suggestion
that are algebraic subsets of #{\II^n} are actually given by polynomials.
```

Comment (fredrik-bakke) [reply src/Synthetic/Quasicoherence.lagda.tree]: Same for the rest of this file

File: src/Synthetic/Quasicoherence.lagda.tree [hunk 8]
```diff
@@ -0,0 +1,226 @@
...
+}
+
+\p{
+Formally an algebraic subset is specified by an algebra #{\mathbb{I} \to A}.
+The algebraic subset is then defined as
+#{\mathrm{Spec}(A) := \mathrm{hom}_{\mathbb{I}-\mathrm{Alg}}(A, \mathbb{I})}.
```
Comment (fredrik-bakke) [inline src/Synthetic/Quasicoherence.lagda.tree]:
```suggestion
#{\mathrm{Spec}(A) := \Hom_{\II-\mathrm{Alg}}(A, \II)}.
```

File: src/Synthetic/Quasicoherence.lagda.tree [hunk 9]
```diff
@@ -0,0 +1,226 @@
...
+                  →  LatticeAlgHom A (ObsAlg (Spec A))
+  obs-spec-η A .fst .fst = eval A
+  obs-spec-η A .fst .snd a = funext→ λ a₁ → a₁ .fst .snd a
+  obs-spec-η A .snd = mk-is-lattice-alg-hom (record
+    { pres-∨ = funext→ λ a → un-is-lattice-alg-hom (a .snd) .pres-∨
+    ; pres-∧ = funext→ λ a → un-is-lattice-alg-hom (a .snd) .pres-∧
+    ; pres-0 = funext→ λ a → un-is-lattice-alg-hom (a .snd) .pres-0
+    ; pres-1 = funext→ λ a → un-is-lattice-alg-hom (a .snd) .pres-1 })
+    where
+      open is-lattice-hom
```
Comment (fredrik-bakke) [inline src/Synthetic/Quasicoherence.lagda.tree]: please consider defining this using a pattern matching lambda instead of using `record {...}`.
My process is to write `λ where → ?`, load agda, and then case split in the created hole.

File: src/Synthetic/Quasicoherence.lagda.tree [hunk 10]
```diff
@@ -0,0 +1,226 @@
...
+    where
+      H : Δ¹ ≃ Obs (Spec (initial-Algebra I))
+      H =  unit-UP≃ e⁻¹
+        ∙≃ precomp-≃ (singleton≃𝟙 (initial-Algebra-is-initial _ _))
+}
+}
+
+\subtree[wil-0002]{
+\taxon{Definition}
+\title{Phoa's Principle}
```
Comment (fredrik-bakke) [inline src/Synthetic/Quasicoherence.lagda.tree]: Yay! 🥳🎉🎉🎉 This is what I need for #77

File: src/Synthetic/Quasicoherence.lagda.tree [hunk 11]
```diff
@@ -0,0 +1,226 @@
...
+  is-generalised-phoa-is-prop : {𝓤 : Level} {X : Type 𝓤} {A : Algebra I X}
+                              → is-prop (is-generalised-phoa A)
+  is-generalised-phoa-is-prop {A = A} = is-prop←is-truncated trunc!
+    where open Algebra A
+
+  phoas-principle : Type 𝓘
+  phoas-principle = is-generalised-phoa (initial-Algebra I)
+
+  Δ¹≃Spec𝕀[x] : Δ¹ ≃ Spec (𝕃[x] I I-distr)
+  Δ¹≃Spec𝕀[x]
```
Comment (fredrik-bakke) [inline src/Synthetic/Quasicoherence.lagda.tree]:
```suggestion
  Δ¹≃Spec𝕃[x] : Δ¹ ≃ Spec (𝕃[x] I I-distr)
  Δ¹≃Spec𝕃[x]
```

File: src/Synthetic/Quasicoherence.lagda.tree [hunk 12]
```diff
@@ -0,0 +1,226 @@
...
+        (_≃_.fwd-is-equiv H)
+    where
+      H : Δ¹ ≃ Obs (Spec (initial-Algebra I))
+      H =  unit-UP≃ e⁻¹
+        ∙≃ precomp-≃ (singleton≃𝟙 (initial-Algebra-is-initial _ _))
+}
+}
+
+\subtree[wil-0002]{
+\taxon{Definition}
```
Comment (fredrik-bakke) [inline src/Synthetic/Quasicoherence.lagda.tree]: The following seems more appropriate, seeing as you prove the principle.
```suggestion
\taxon{Theorem}
```

File: src/Synthetic/Quasicoherence.lagda.tree [hunk 13]
```diff
@@ -0,0 +1,226 @@
...
+    ; pres-1 = refl })
+
+  obs-spec-ε : {𝓤 : Level} {X : Type 𝓤}  → X → Spec (ObsAlg X)
+  obs-spec-ε x .fst .fst f =  f x
+  obs-spec-ε x .fst .snd = λ a → refl
+  obs-spec-ε x .snd = mk-is-lattice-alg-hom (record
+    { pres-∨ = refl
+    ; pres-∧ = refl
+    ; pres-0 = refl
+    ; pres-1 = refl })
```
Comment (fredrik-bakke) [inline src/Synthetic/Quasicoherence.lagda.tree]: please consider defining this using a pattern matching lambda instead of using `record {...}`.
My process is to write `λ where → ?`, load agda, and then case split in the created hole.

Comment (fredrik-bakke) [reply src/Synthetic/Quasicoherence.lagda.tree]: or by direct copattern matching

File: src/Synthetic/Quasicoherence.lagda.tree (hunk 8 above)
Comment (fredrik-bakke) [inline src/Synthetic/Quasicoherence.lagda.tree]: Please also consider creating macros for

- `\mathrm{Spec}`
- `\mathrm{Alg}`
- `\mathcal{O}`

in `stt-macros.tree`. If so it is beneficial to use `\operatorname` to ensure proper spacing and font.

File: src/Synthetic/Quasicoherence.lagda.tree (hunk 11 above)
Comment (markrd-williams) [reply src/Synthetic/Quasicoherence.lagda.tree]: Not sure about this: `L[x]` here is the notation for the free algebra on any lattice, not just I. At some point we'll need for any algebra `Spec A[x] = A x I`  Maybe non blackboard bold `Δ¹≃SpecI[x]` would work?

Comment (fredrik-bakke) [reply src/Synthetic/Quasicoherence.lagda.tree]: I don't understand your comment, sorry. My suggested name matches the type signature perfectly

Comment (fredrik-bakke) [reply src/Synthetic/Quasicoherence.lagda.tree]: Do you want to change the name of LL[x]?

Comment (markrd-williams) [reply src/Synthetic/Quasicoherence.lagda.tree]: `LL[x]` is an operator on algebras that takes the free algebra on one generator of a distributive lattice `I`. 
The usual name for `LL[x] A A-distr` is `A[x]`. I chose `LL[x]` to agree with the name for the underlying lattice, which is `L[x]` in the library. Would you prefer those just be called `Free-algebra` or `Free-lattice`? In either case I think the name `Δ¹≃SpecI[x]` is appropriate for the term.

Comment (samtoth) [reply src/Synthetic/Quasicoherence.lagda.tree]: I believe I may have commited the original sin here. I.e. in the name `L[x]`, L is a variable. If `_[_]` wasn't such a contested notation I would suggest it. Maybe we should just name it `FreeAlgebra`. Unless you fancy getting creative with a new notation type class in `Ergonomics.Notation` for 'bracket' notations - you could follow the design for the orthogonaliy notation class.
